US04996211
1,5-Diazabicyclo[4.3.0]non-5-ene (29.1 g) was added to a solution of 2-(carbomethoxy)benzyl triphenylphosphonium bromide (100 g) and p-tolualdehyde (26.7 g) in acetonitrile (250 ml). The mixture was refluxed for 10 minutes, the solvents removed in vacuo and the residue dissolved in chloroform (200 ml). Washed with lN aqueous hydrochloric acid (100ml) and water (100 ml), then dried over sodium sulphate filtered and evaporated. The residue was refluxed overniqht in water (250 ml) and methanol (100 ml) containing potassium hydroxide (56 g). then cooled diluted with water (250 ml) and washed with chloroform (3×250 ml). The aqueous solution was acidified to pH 2 with conc. hydrochloric acid, and extracted with chloroform (3×200 ml). The extract was washed dried and evaporated to afford 2-carboxy-4'-methyl stilbene (44.2 g) as a cis- trans mixture. This mixture was hydrogenated in dimethylformamide (50 ml) at 50 psi in the presence of 10% palladium on charcoal catalyst (2 g). The catalyst was removed by filtration and solvent evaporated. The residue Was dissolVed in ether, ,washed with water, dried and filtered to afford after evaporation and hexane trituration. 2-(2-(4-methylphenyl)ethyl)benzoic acid (40.0 g). m.p. 80°-82° C.

reactant | 1,5-Diazabicyclo[4.3.0]non-5-ene | 29.1 g | N12CCCN=C2CCC1 | C7H12N2
reactant | 2-(carbomethoxy)benzyl triphenylphosphonium bromide | 100 g | [Br-].C(=O)(OC)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | p-tolualdehyde | 26.7 g | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-carboxy-4'-methyl stilbene | 44.2 g | C(=O)(O)C1=C(C=CC=C1)C=CC1=CC=C(C=C1)C | C16H14O2
